US06420409B1
Synthesis of 1-(Isoquinolin-3-ylmethyl)-2-methyl-6-(1-pentane-sulfonylcarbamoyl)benzimidazole (13)
N,N′-carbonyldiimidazole (0.324 g) was added to a solution of 6-carboxy-1-(isoquinolin-3-ylmethyl)-2-methylbenzimidazole (0.413 g) as obtained in Production Example 5 in N,N-dimethylformamide (10 ml) all at once and the mixture was stirred at room temperature for 1.5 hour. Then, 1-pentanesulfonamide (0.302 g) and diazabicyclo-undecene (0.304 g) were added thereto, and the resulting mixture was stirred at 100° C. for 6.5 hour. The reaction solution was concentrated, brine was added to the concentrate, and the mixture was extracted with chloroform. The organic layer was concentrated and the residue was purified by silica gel column chromatography (eluate: methanol/chloroform=1/19) followed by recrystallization from hexane/ethyl acetate (2/3) to yield the desired compound, 1-(isoquinolin-3-ylmethyl)-2-methyl-6-(1-pentanesulfonyl-carbamoyl)benzimidazole (13) (0.142 g).

reactant | 6-carboxy-1-(isoquinolin-3-ylmethyl)-2-methylbenzimidazole | 0.413 g | C(=O)(O)C=1C=CC2=C(N(C(=N2)C)CC=2N=CC3=CC=CC=C3C2)C1 | C19H15N3O2
reactant | 1-pentanesulfonamide | 0.302 g | C(CCCC)S(=O)(=O)N | C5H13NO2S
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(Isoquinolin-3-ylmethyl)-2-methyl-6-(1-pentane-sulfonylcarbamoyl)benzimidazole | 0.142 g | C1=NC(=CC2=CC=CC=C12)CN1C(=NC2=C1C=C(C=C2)C(NS(=O)(=O)CCCCC)=O)C | C24H26N4O3S
